US09029408B2
A mixture of 2-phenyl-4,5-dihydrothiazole-4-carboxylic acid (5 mmol), EDCI (6 mmol) and HOBt (5 mmol) in CH2Cl2 (50 mL) was stirred for 10 min. To this solution, NMM (5 mmol) and HNCH3OCH3 (5 mmol) were added and stiffing continued at RT for 6-8 h. The reaction mixture was diluted with CH2Cl2 (100 mL) and sequentially washed with water, satd. NaHCO3, brine and dried over MgSO4. The solvent was removed under reduced pressure to yield a crude product, which was purified by column chromatography to get 2-phenyl-4,5-dihydrothiazole-4-carboxylic acid methoxymethylamide. A solution of 2-phenyl-4,5-dihydrothiazole-4-carboxylic acid methoxymethylamide (1 equiv) in CH2Cl2 was cooled to 0° C., and distilled DBU (2 equiv) was added. Bromotrichloromethane (1.7 equiv) was then introduced dropwise via syringe over 10 min. The reaction mixtures were allowed to warm to RT and stirred overnight. Upon washing with satd. aqueous NH4Cl (2×50 mL), the aqueous phase was extracted with EtOAc (3×50 mL). The combined organic layers were dried on MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography as needed providing 2-phenyl-thiazole-4-carboxylic acid methoxymethylamide (73.6%). 1H NMR (300 MHz, CDCl3) δ 8.01 (s, 1H), 7.99-7.96 (m, 2H), 7.47-7.44 (m, 3H), 3.88 (s, 3H), 3.49 (s, 3H). MS (ESI) m/z 271.0 (M+Na)+. To a solution of 3,4,5-trimethoxyphenylmagnesium bromide (0.5 N, 3 mL) in 2 mL THF was charged a solution of 2-phenyl-thiazole-4-carboxylic acid methoxymethylamide (1 mmol) in 3 mL THF at 0° C. The mixtures were stirred for 30 min until amides disappeared on TLC plates. The reaction mixture was quenched with satd. NH4Cl, extracted with ethyl ether, dried with MgSO4. The solvent was removed under reduced pressure to yield a crude product, which was purified by column chromatography to obtain pure compound 1-h. Yield: 27.3%. 1H NMR (300 MHz, CDCl3) δ 8.29 (s, 1H), 8.03 (q, 2H), 7.80 (s, 2H), 7.49-7.47 (m, 3H), 3.96 (s, 6H), 3.97 (s, 3H). MS (ESI) m/z 378.1 (M+Na)+.

reactant | 2-phenyl-4,5-dihydrothiazole-4-carboxylic acid | 5 mmol | C1(=CC=CC=C1)C=1SCC(N1)C(=O)O | C10H9NO2S
reactant | EDCI | 6 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 5 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 5 mmol | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-4,5-dihydrothiazole-4-carboxylic acid methoxymethylamide | COCNC(=O)C1N=C(SC1)C1=CC=CC=C1 | C12H14N2O2S
